US09061999B2
8-chloro-5-(2-(piperidin-1-yl)ethoxy)quinolin-2(1H)-one (275 mg, 0.9 mmol, 1 eq.) was placed in acetonitrile (2.3 mL) in the presence of POCl3 (418 μL, 4.5 mmol, 5 eq.) and triethylammonium chloride (1 g, 4.5 mmol, 5 eq.). The reaction mixture was stirred at 120° C. during 3 hours. The mixture was then concentrated under reduced pressure and, after adding water to the residue (5 mL), was stirred at room temperature during 30 minutes. Then the resulting precipitate was washed with water and filtered to give 2,8-dichloro-5-(2-(piperidin-1-yl)ethoxy)quinoline (228 mg, 100%).

reactant | 8-chloro-5-(2-(piperidin-1-yl)ethoxy)quinolin-2(1H)-one | 0.9 mmol, 275 mg, 1 eq. | ClC=1C=CC(=C2C=CC(NC12)=O)OCCN1CCCCC1 | C16H19ClN2O2
reactant | POCl3 | 4.5 mmol, 418 μL, 5 eq. | O=P(Cl)(Cl)Cl | Cl3OP
reactant | triethylammonium chloride | 4.5 mmol, 1 g, 5 eq. | [Cl-].C(C)[NH+](CC)CC
solvent | acetonitrile | 2.3 mL | C(C)#N | C2H3N
product | 2,8-dichloro-5-(2-(piperidin-1-yl)ethoxy)quinoline | 228 mg, 100% | ClC1=NC2=C(C=CC(=C2C=C1)OCCN1CCCCC1)Cl | C16H18Cl2N2O
